US04315860
7-Phenyl-1,2,3,4-tetrahydro-1,4-diazepine-5-one
A solution of 192 g. (1 mol) of ethyl benzoylacetate in mixed xylenes (total volume 400 ml.) was added dropwise over a 1 hour period to a solution of 60 g. (67 ml.; 1 mol) of ethylenediamine in 1 l. of mixed xylenes refluxing under nitrogen. The reaction mixture was then refluxed for an additional hour after which the water was azeotroped off. The solvent was then distilled off over a 2 hour period and the resulting reaction product was allowed to stand at room temperature. The crystalline material formed was isolated by filtration, washed several times with chloroform and dried to obtain the crystalline product (59 g.). m.p. 207°-210° C. Lit. Ried et al., Chem. Ber. 87, 1811-1814 (1954), m.p. 209°-210° C.; Hofmann et al., J. Org. Chem. 27, 3565-3568 (1962), m.p. 206°-209° C.

reactant | ethyl benzoylacetate | 1 mol | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | ethylenediamine | 1 mol, 67 ml | C(CN)N | C2H8N2
solvent | water | O | H2O
product | 7-Phenyl-1,2,3,4-tetrahydro-1,4-diazepine-5-one | C1(=CC=CC=C1)C1=CC(NCCN1)=O | C11H12N2O
